US07767827B2
Triethylamine (3.5 mL, 25.0 mmol) was added to an ethanol (25 mL) solution of 3-hydroxypyrazole (2.45 g, 25.0 mmol), and the mixture was stirred at room temperature for 10 minutes. Then, an ethanol (5 mL) solution of diethyl dicarbonate (3.8 mL, 25.7 mmol) was dropwise added with cooling in an ice-water bath, and the mixture was stirred at room temperature for 3 hours. After completion of the reaction, the reaction mixture was concentrated and precipitated crystals were washed with hexane and diethyl ether to give a white solid of ethyl 3-hydroxy-5-methylpyrazole-1-carboxylate (3.1 g, yield: 71.7%). Melting point: 198˜200° C. (decomposed), 1H-NMR (DMSO, DMSO-d6, ppm): δ1.31 (t, J=7.1 Hz, 3H), 2.41 (m, 3H), 4.31 (q, J=7.1 Hz, 2H), 5.76 (d, J=0.8 Hz, 1H), 10.77 (brs, 1H).

reactant | Triethylamine | 25.0 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxypyrazole | 25.0 mmol, 2.45 g | OC1=NNC=C1 | C3H4N2O
reactant | diethyl dicarbonate | 25.7 mmol, 3.8 mL | C(=O)(OCC)OC(=O)OCC | C6H10O5
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | ethyl 3-hydroxy-5-methylpyrazole-1-carboxylate | 3.1 g, yield: 71.7% | OC1=NN(C(=C1)C)C(=O)OCC | C7H10N2O3
